* Schematics Netlist *



M_M1         $N_0002 $N_0001 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
V_VDD         $N_0003 0 5V
R_R1         $N_0002 $N_0003  90k  
V_V3         $N_0001 0  
+PULSE 0V 5V 10n 2n 2n 40n 100n
